US05665718
A solution of 370 mg (1.01 mmol) of 8-chloro-3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one in 5 ml of N,N-dimethylformamide was treated with 0.42 ml (3.03 mmol) of dipropylamine and stirred at room temperature under argon for 2 hrs. The solution was evaporated and the residue was triturated in 10 ml of water. The white crystals were filtered off. The product was chromatographed on 20 g of silica gel (ethyl acetate/hexane 1:1, then ethyl acetate). There were obtained 259 mg of 8-chloro-3-(5-dipropylaminomethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one, which was converted with ethereal hydrochloric acid into the hydrochloride. By recrystallization from acetonitrile there were obtained 268 mg (54%) of 8-chloro-1-(5-dipropylaminomethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride (1:1.6) of m.p. 180°-192° (dec.).

reactant | 8-chloro-3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 1.01 mmol, 370 mg | ClC=1C=CC2=C(C(N(CC=3N2C=NC3C3=NOC(=N3)CCl)C)=O)C1 | C15H11Cl2N5O2
reactant | dipropylamine | 3.03 mmol, 0.42 ml | C(CC)NCCC | C6H15N
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 8-chloro-3-(5-dipropylaminomethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 259 mg | ClC=1C=CC2=C(C(N(CC=3N2C=NC3C3=NOC(=N3)CN(CCC)CCC)C)=O)C1 | C21H25ClN6O2
